US06002008
4-(4-Chloro-2-methylphenylamino)-6,7-dimethoxyquinoline-3-carbonitrile
A mixture of 0.248 g (1 mmol)of 4-chloro-6,7-dimethoxy-quinoline-3-carbonitrile, 0.156 g (1.1 mmol) of 4-chloro-2-methylaniline, 0.116 g (1 mmol) pyridine hydrochloride and 12 ml of 2-ethoxyethanol was heated in a 138-140° C. oil bath for 24 hours; progress of the reaction was monitored by TLC. After 24 hours an additional 0.156 g of of 4-chloro-2-methylaniline was added and the heating continued for 24 hours. When TLC indicated the disappearance of starting material, the reaction was cooled and concentrated in vacuo to a thick oil. To this oil was added 50 ml of water followed by 5 ml of 1M NaHCO3, approximately pH 8. The gummy solid was dissolved in chloroform and passed through a pad of hydrous magnesium silicate. The liquid was concentrated in vacuo and the residue triturated 5 times with hexane. The resulting precipitate was collected, washed with hexane, and dried in vacuo at 65° C. to give 0.250 g (71%) of the desired product as brown crystals. MP 227-229° C.;: mass spectrum (electrospray, m/e,): 353.8(M+H)+.

reactant | 4-chloro-6,7-dimethoxy-quinoline-3-carbonitrile | 1 mmol, 0.248 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 4-chloro-2-methylaniline | 1.1 mmol, 0.156 g | ClC1=CC(=C(N)C=C1)C | C7H8ClN
reactant | pyridine hydrochloride | 1 mmol, 0.116 g | Cl.N1=CC=CC=C1
reactant | 2-ethoxyethanol | 12 ml | C(C)OCCO | C4H10O2
product | 4-(4-Chloro-2-methylphenylamino)-6,7-dimethoxyquinoline-3-carbonitrile | 0.250 g, 71% | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N)C | C19H16ClN3O2
